US07145047B2
1.5 g of sodium hydride was suspended in 5 ml of tetrahydrofuran (THF) under cooling by an ice-water bath. To the suspension was then added dropwise 40 ml THF solution of 10.0 g of 1-fluoro-6-(trans-4-propylcyclohexyl)naphthalene-2-ol (obtained by reacting a Grignard reagent prepared from 6-bromo-2-methoxynaphthalene and magnesium with 4-propylcyclohexanene, subjecting the product to dehydration in the presence of an acid to obtain a naphthylcyclohexene derivative, subjecting the naphthylcyclohexene derivative to catalytic reduction, treating the material with a strongly basic potassium t-butoxide in DMF so that the cyclohexane ring was isomerized to trans form, subjecting the material to demethylation with hydrobromic acid, and then fluorinating the material with N-fluoro-5-trifluoromethoxypyridinium-2-sulfonate). After several hours of stirring, to the reaction solution was then added dropwise 30 ml of a THF solution of 7.4 g of S-ethyl chlorodithiocarbonate. After 1 hour of stirring, to the reaction solution was than added 20 ml of water to terminate the reaction. To the reaction solution was then added 50 ml of ethyl acetate. The organic phase was further washed twice with 20 ml of water, and then dehydrated and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled off under reduced pressure to obtain 12.0 g of S-ethyl-O-1-fluoro-6-(trans-4-propylcyclohexyl)naphthalene-2-yl dithiocarbonate. 12.0 g of S-ethyl-O-1-fluoro-6-(trans-4-propylcyclohexyl)naphthalene-2-yl dithiocarbonate thus obtained was dissolved in 48 ml of dichloromethane, and then added dropwise to 1 liter dichloromethane solution of 300 g of hydrogen fluoride-melamine complex and 1,3-dibromo-5,5-dimethylhydantoin which had been cooled to a temperature of 0° C. After 30 minutes of stirring, to the reaction solution was then added 200 ml of water to terminate the reaction. The resulting organic phase was washed twice with 200 ml of water, and then dehydrated and dried over anhydrous sodium sulfate. The solvent was then distilled off. The residue was then purified through silica gel column chromatography (developing solvent: hexane). The total amount of the purified product was then dissolved in 50 ml of THF. Two the solution was then added dropwise 43 ml of a 1.6 M hexane solution of butyl lithium at a temperature of −78° C. After the termination of dropwise addition, the reaction mixture was then stirred for 10 minutes. To the reaction mixture was then added 10 ml of water. The reaction mixture was then returned to room temperature. To the reaction mixture was then added 20 ml of water. The resulting organic phase was washed twice with 20 ml of water, and then dehydrated and dried over anhydrous sodium sulfate. The product was purified through silica gel column chromatography (hexane/ethyl acetate=9/1), and then recrystallized from ethanol to obtain 7.1 g of 5-fluoro-5-trifluoromethoxy-2-(trans-4-propylcyclohexyl)naphthalene.

reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 1-fluoro-6-(trans-4-propylcyclohexyl)naphthalene-2-ol | 10.0 g | FC1=C(C=CC2=CC(=CC=C12)[C@@H]1CC[C@H](CC1)CCC)O | C19H23FO
reactant | 6-bromo-2-methoxynaphthalene | BrC=1C=C2C=CC(=CC2=CC1)OC | C11H9BrO
reactant | magnesium | [Mg] | Mg
reactant | 4-propylcyclohexanene | C(CC)C1CC=CCC1 | C9H16
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
product | naphthylcyclohexene | C1(=CC=CC2=CC=CC=C12)C1=CCCCC1 | C16H16
